US07820655B2
A.iii. 3-methoxy-quinoline-5-carbaldehyde
To a solution of intermediate A.ii (10 g) in THF (250 ml) cooled to −78° C., was added n-BuLi (22 ml). After 15 min, a solution of DMF (10 ml) in ether (20 ml) was quickly added. The solution was stirred 15 min and EtOH (5 ml), followed by 1M NaHSO4 (40 ml), was added. After warming to rt, the organic layer was diluted with EA (100 ml). The two layers were separated and the aq. layer was extracted once with EA (100 ml). The combined org. layers were washed with brine and concentrated to dryness. The residue was chromatographed (EA-Hex 1-2 then 1-1) to afford the title compound (4.75 g) as a yellowish solid.

reactant | n-BuLi | 22 ml | [Li]CCCC
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | EtOH | 5 ml | CCO | C2H6O
reactant | NaHSO4 | 1M, 40 ml | OS(=O)(=O)[O-].[Na+]
reactant | THF | 250 ml | C1CCOC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | EA | 100 ml | CC(OCC)=O | C4H8O2
product | 3-methoxy-quinoline-5-carbaldehyde | 4.75 g | COC=1C=NC=2C=CC=C(C2C1)C=O | C11H9NO2
